US06455606B1
Using 0.6 g (0.006 mole) of sulfuric acid as a catalyst, 144 g (2 moles) of acrylic acid was reacted with 92 g (1 mole) of glycerol. The reaction mixture was neutralized with 0.68 g (0.012 mole) of potassium hydroxide, and 0.20 g (0.1 mass %) of hydroquinon was added as a stabilizer. Thus, glycerol diacrylate (A1-2) was obtained.

reactant | acrylic acid | 2 moles, 144 g | C(C=C)(=O)O | C3H4O2
reactant | glycerol | 1 mole, 92 g | OCC(O)CO | C3H8O3
reactant | potassium hydroxide | 0.012 mole, 0.68 g | [OH-].[K+]
reactant | hydroquinon | 0.20 g | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | sulfuric acid | 0.006 mole, 0.6 g | S(O)(O)(=O)=O | H2O4S
product | glycerol diacrylate | C(C=C)(=O)OCC(OC(C=C)=O)CO | C9H12O5
